* I:\workspace\mySPICE\Filters\KRC.asc
R1 N002 N003 33k
R2 N003 N004 33k
C1 N004 0 330p
C2 N003 OUT 680p
R3 N001 N002 10k
C3 N001 N006 10n
C4 N005 N001 10n
R4 N006 0 20k
V1 N005 0 AC 1
V2 V+ 0 12
V3 0 V- 12
XU1 N006 N002 V+ V- N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N004 OUT V+ V- OUT level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.ac dec 1000 1 10meg
.lib UniversalOpamps2.sub
.backanno
.end
