* I:\workspace\mySPICE\Regulators\CurrentLimitingCircuit.asc
Q1 N001 N004 N002 0 NPN
Q2 N004 N002 N003 0 NPN
Q3 N004 N005 N006 0 NPN
R1 N001 N004 1k
R2 N001 N006 1k
R3 N003 N005 1k
R4 N005 0 1k
R5 N003 0 1k
R6 N002 N003 100
V1 N001 0 2
D1 0 N006 D
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 1m
.backanno
.end
